US06410790B1
(3-bromophenoxy)trimethylsilane
23.4 g (0.145 mole) of hexamethylsilazane were added dropwise under nitrogen to 49.3 g (0.285 mole) of 3-bromophenol, and the solution was heated slowly to 150° C. and stirred for one hour until no more gas was produced. The solution was purified by distillation at 6 mbar, the main fraction boiling at 79° C. 66.7 g of (3-bromophenoxy) trimetlhylsilane (95.5's of theory) were obtained in this way.

reactant | hexamethylsilazane | 0.145 mole, 23.4 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | 3-bromophenol | 0.285 mole, 49.3 g | BrC=1C=C(C=CC1)O | C6H5BrO
product | (3-bromophenoxy)trimethylsilane | BrC=1C=C(O[Si](C)(C)C)C=CC1 | C9H13BrOSi
